US04523030
1.0 g of 4-benzoyl-5-hydroxybenzocyclobutene-1-methanol is dissolved in 50 ml of acetic acid and then 4.0 g of chromium trioxide are added in portions. The whole is stirred for 16 hours at 40°, concentrated to dryness by evaporation under reduced pressure, taken up in 20 ml of water and extracted by shaking with 80 ml of dichloromethane. The organic phase is dried over magnesium sulphate and concentrated by evaporation. After recrystallisation of the residue from ether/hexane, 4-benzoyl-5-hydroxybenzocyclobutene-1-carboxylic acid is obtained having a melting point of 167°-169°.

reactant | 4-benzoyl-5-hydroxybenzocyclobutene-1-methanol | 1.0 g | C(C1=CC=CC=C1)(=O)C1=CC2=C(C(=C2)CO)C=C1O | C16H12O3
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 4.0 g | [O-2].[O-2].[O-2].[Cr+6]
product | 4-benzoyl-5-hydroxybenzocyclobutene-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC2=C(C(=C2)C(=O)O)C=C1O | C16H10O4
